US07235559B1
Potassium carbonate (20.7 g, 0.15 mol) was added to a solution of 4-fluorobenzonitrile (12.1 g, 0.1 mol) and piperazine (25.8 g, 0.3 mol) in dimethylsulfoxide (75 ml) and heated at 95° C. for 20 hours. The reaction was cooled and poured into water (1100 ml) and extracted into dichloromethane (4×400 ml). The organic solution was dried and the solvent removed in vacuo to yield 4-cyanophenylpiperazine (17.5 g, 93.6% yield):

reactant | Potassium carbonate | 0.15 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzonitrile | 0.1 mol, 12.1 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | piperazine | 0.3 mol, 25.8 g | N1CCNCC1 | C4H10N2
reactant | water | 1100 ml | O | H2O
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
product | 4-cyanophenylpiperazine | 17.5 g, 93.6% yield | C(#N)C1=CC=C(C=C1)N1CCNCC1 | C11H13N3
